US07329662B2
5-(4-Bromo-phenyl)-3-(2,6-dimethyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-(4-bromo-phenyl)-4,4,4-trifluoro-butane-1,3-dione (148 mg, 0.5 mmol), prepared from commercially available 4-bromo-acetophenone according to general procedure A, and 3-amino-4-(2,6-dimethyl-4-pyridinyl)-pyrazole [prepared from 4-cyanomethyl-2,6-dimethyl-pyridine, CAS No. 130138-46-4, as described in Bioorg. Med. Chem. Lett. 12 (2002) 3537-3541] (94 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (93 mg, 42%). MS (ISP) 447.2 [(M+H)+]; mp 258° C.

reactant | 1-(4-bromo-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 0.5 mmol, 148 mg | BrC1=CC=C(C=C1)C(CC(C(F)(F)F)=O)=O | C10H6BrF3O2
reactant | 3-amino-4-(2,6-dimethyl-4-pyridinyl)-pyrazole | 0.5 mmol, 94 mg | NC1=NNC=C1C1=CC(=NC(=C1)C)C | C10H12N4
product | 5-(4-Bromo-phenyl)-3-(2,6-dimethyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 93 mg, 42% | BrC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C2=CC(=NC(=C2)C)C | C20H14BrF3N4
